US04616014
A mixture of 2-hydroxyimino-4'-methoxypropiophenone thiosemicarbazone (5.32 g), potassium carbonate (6.35 g) and water (50 ml) was treated in a similar manner to that of Example 25-(2), and then treated with activated charcoal. To the filtrate was added methyl iodide (6 g), and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was extracted with ethyl acetate. The extract was washed with water, dried over sodium sulfate, treated with silica gel, and filtered. The filtrate was concentrated to dryness to give a residue, which was crystallized from diisopropyl ether. The resultant crystals were collected by filtration, washed with diisopropyl ether and dried to give 6-(4-methoxyphenyl)-5-methyl-3-methylthio-1,2,4,-triazine (2.42 g).

reactant | 2-hydroxyimino-4'-methoxypropiophenone thiosemicarbazone | 5.32 g | ON=C(C(C1=CC=C(C=C1)OC)=NNC(=S)N)C | C11H14N4O2S
reactant | potassium carbonate | 6.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | charcoal | C | CH4
reactant | methyl iodide | 6 g | CI | CH3I
solvent | water | 50 ml | O | H2O
product | 6-(4-methoxyphenyl)-5-methyl-3-methylthio-1,2,4,-triazine | 2.42 g | COC1=CC=C(C=C1)C1=C(N=C(N=N1)SC)C | C12H13N3OS
